US08242175B2
A mixture of 4-phenyl piperidine hydrochloride (1.23 g, 6.2 mmol), formaldehyde (36.5% in H2O, 0.702 ml, 9.3 mmol), NaBH(OAc)3 (2.63 g, 12.42 mmol) and AcOH (0.71 ml, 12.42 mmol) in DCM (30 ml) was stirred for 24 hours at room temperature. The mixture was then brought to basic conditions with a 5% NaHCO3 solution and extracted twice with DCM. The pooled organic phases were dried over Na2SO4 and evaporated to dryness. The residue was dissolved in DCM and treated with HCl in Et2O observing the precipitation of a white solid. The solid was filtered off through a Buchner funnel to obtain 1 g of 1-methyl-4-phenylpiperidine hydrochloride as a white solid.

reactant | 4-phenyl piperidine hydrochloride | 6.2 mmol, 1.23 g | Cl.C1(=CC=CC=C1)C1CCNCC1
reactant | formaldehyde | 9.3 mmol, 0.702 ml | C=O | CH2O
reactant | NaBH(OAc)3 | 12.42 mmol, 2.63 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 12.42 mmol, 0.71 ml | CC(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-4-phenylpiperidine hydrochloride | 1 g | Cl.CN1CCC(CC1)C1=CC=CC=C1 | InChI=1S/C12H17N.ClH/c1-13-9-7-12(8-10-13)11-5-3-2-4-6-11;/h2-6,12H,7-10H2,1H3;1H
